US08614219B2
4.1 2-Pyrimidin-4-yl-6,7,8,9-tetrahydro-pyrido[1,2-a]pyrimidin-4-one
To a suspension of 25.0 g (185.72 mmol) of 3,4,5,6-tetrahydro-pyridin-2-ylamine monohydrochloride in 138 mL of ethanol was added 25.67 g (185.72 mmol) of potassium carbonate. The reaction mixture was stirred at room temperature for 10 min, 36.06 g (185.72 mmol) of ethyl 3-(4-pyrimidinyl)-3-oxopropionate was added and the resulting mixture was stirred under reflux for 16 h. The cooled solution was evaporated to remove solvent. The mixture was dissolved in ethylacetate, washed with a saturated aqueous solution of sodium chloride, dried over sodium sulfate and evaporated to dryness. The resulting solid was triturated in diethyl ether, filtrated to afford 9.23 g (22%) of the desired compound as a white-brown powder.

reactant | 3,4,5,6-tetrahydro-pyridin-2-ylamine monohydrochloride | 185.72 mmol, 25.0 g | Cl.N1=C(CCCC1)N
reactant | potassium carbonate | 185.72 mmol, 25.67 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 3-(4-pyrimidinyl)-3-oxopropionate | 185.72 mmol, 36.06 g | N1=CN=C(C=C1)C(CC(=O)OCC)=O | C9H10N2O3
solvent | ethanol | 138 mL | C(C)O | C2H6O
product | 2-Pyrimidin-4-yl-6,7,8,9-tetrahydro-pyrido[1,2-a]pyrimidin-4-one | 9.23 g, 22% | N1=CN=C(C=C1)C=1N=C2N(C(C1)=O)CCCC2 | C12H12N4O
